US07547701B2
To a suspension of 6-trifluoromethylpyridine-2-carboxylic acid (2.53 g, 13.2 mmol) in THF (50 mL) cooled to −5° C. was added triethylamine (1.84 mL, 13.2 mmol) followed by addition of ethyl chloroformate (1.26 mL, 13.2 mmol) and the reaction mixture was stirred for 30 min at 0° C. Lithium borohydride (718 mg, 33 mmol) was added in portions, maintaining the temperature below −5° C. After the addition was complete, the reaction was allowed to warm to room temperature and stirred for 1 h. Temperature was lowered to −5° C. and methanol (10 mL) was added followed by addition of aqueous sodium hydroxide (10 mL, 10%). After the addition of ethyl acetate (50 mL) and water (40 mL), dilute hydrochloric acid was added to obtain pH=5.0. After washing aqueous layer thoroughly with ethyl acetate the combined organic extracts were dried over MgSO4 and concentrated. Purification by flash column (30% EtOAc-Hexane) gave (6-trifluoromethylpyridin-2-yl)methanol (760 mg) as an oil.

reactant | 6-trifluoromethylpyridine-2-carboxylic acid | 13.2 mmol, 2.53 g | FC(C1=CC=CC(=N1)C(=O)O)(F)F | C7H4F3NO2
reactant | triethylamine | 13.2 mmol, 1.84 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 13.2 mmol, 1.26 mL | ClC(=O)OCC | C3H5ClO2
reactant | Lithium borohydride | 33 mmol, 718 mg | [BH4-].[Li+]
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | (6-trifluoromethylpyridin-2-yl)methanol | 760 mg | FC(C1=CC=CC(=N1)CO)(F)F | C7H6F3NO
